US05099021
N-(4-bromophenyl)-N',N'-dimethylurea
3.35 g (0.038 mol) of N,N-dimethylurea and 4.3 g (0.025 mol) of 4-bromoaniline were added with stirring into 28 ml of 1,2,4-trichlorobenzene, after which the mixture was slowly heated to 205° C. Dimethylamine was introduced from 50° C. After 5.5 hours, 11.6 g (0.25 mol) of dimethylamine had been introduced, and the reaction was complete. The reaction mixture was cooled to room temperature whereupon a precipitate deposited, which was filtered off, washed with 1,2,4-trichlorobenzene, dried at 100° C. in vacuo and then boiled in 100 ml of water. The aqueous mixture was cooled, and the precipitate was filtered off with suction and dried. 4.73 g of N-(4-bromophenyl)-N',N'-dimethylurea, i.e. 78% of theory, having a melting point of 168° to 170° C. were obtained in this way.

reactant | N,N-dimethylurea | 0.038 mol, 3.35 g | CN(C(=O)N)C | C3H8N2O
reactant | 4-bromoaniline | 0.025 mol, 4.3 g | BrC1=CC=C(N)C=C1 | C6H6BrN
reactant | 1,2,4-trichlorobenzene | 28 ml | ClC1=C(C=C(C=C1)Cl)Cl | C6H3Cl3
reactant | Dimethylamine | CNC | C2H7N
reactant | dimethylamine | 0.25 mol, 11.6 g | CNC | C2H7N
product | N-(4-bromophenyl)-N',N'-dimethylurea | BrC1=CC=C(C=C1)NC(=O)N(C)C | C9H11BrN2O
